US06706723B2
A mixture of 4-(4-Aminomethyl-phenoxy)-phenol (0.10 g, 0.47 mmol), MMP-resin (polystyrene bound N-methylmorpholine-type base, 0.30 g, 1.04 mmol) and 1.9 mL of acetonitrile was treated with propionyl chloride (0.086 mL, 1.0 mmol) and shaken for 24 hours at room temperature. After filtration of the resin, the filtrate was diluted with 2 mL of methanol and was treated with 2 mL of 1M lithium hydroxide (LiOH) in water. The mixture was shaken for 24 hours at room temperature, treated with Amberlite IRP-64® resin until neutral, filtered and concentrated in vacuo, affording N-[4-(4-Hydroxy-phenoxy)-benzyl]-propionamide. MS (m/z): 272.2 [M+H]+.

reactant | 4-(4-Aminomethyl-phenoxy)-phenol | 0.47 mmol, 0.10 g | NCC1=CC=C(OC2=CC=C(C=C2)O)C=C1 | C13H13NO2
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | propionyl chloride | 1.0 mmol, 0.086 mL | C(CC)(=O)Cl | C3H5ClO
solvent | acetonitrile | 1.9 mL | C(C)#N | C2H3N
product | N-[4-(4-Hydroxy-phenoxy)-benzyl]-propionamide | OC1=CC=C(OC2=CC=C(CNC(CC)=O)C=C2)C=C1 | C16H17NO3
